US09029538B2
1-Ethyl-3-(4-fluoro-phenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-3-methoxy-phenyl]-amide.
This compound was synthesized using 4-(6,7-dimethoxy-quinolin-4-yloxy)-3-methoxy-phenylamine and 1-ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid using the procedure for example 1. mp=245-247° C.; LCMS m/z=587 (M+1); 1H NMR (DMSO-d6) δ: 10.98 (s, 1H), 8.89 (s, 1H), 8.46 (d, 1H, J=6 Hz), 7.56 (d, 1H, J=2 Hz), 7.53 (s, 1H), 7.49 (dd, 1H, J=3, 9 Hz), 7.45-7.41 (m, 2H), 7.39-7.34 (m, 3H), 7.25 (d, 1H, J=9 Hz), 6.36 (d, 1H, J=6 Hz), 4.01 (q, 2H, J=8 Hz), 3.95 (d, 6H), 3.71 (s, 3H), 1.3 (t, 3H, J=8 Hz).

reactant | 4-(6,7-dimethoxy-quinolin-4-yloxy)-3-methoxy-phenylamine | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)N)OC | C18H18N2O4
reactant | 1-ethyl-3-(4-fluorophenyl)-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid | C(C)N1C(N(C(C(=C1)C(=O)O)=O)C1=CC=C(C=C1)F)=O | C13H11FN2O4
product | 1-Ethyl-3-(4-fluoro-phenyl)-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [4-(6,7-dimethoxy-quinolin-4-yloxy)-3-methoxy-phenyl]-amide | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)NC(=O)C=1C(N(C(N(C1)CC)=O)C1=CC=C(C=C1)F)=O)OC | C31H27FN4O7
